US07642264B2
6′-[3-(4-Methoxy-piperidine-1-sulfonyl)-phenyl]-6-methyl-4-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl
The title compound was prepared from 3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonyl chloride (example I.2) (0.200 g, 0.409 mmol) by treatment with commercially available 4-methoxypiperidine [CAS-no. 4045-24-3] (0.236 g, 2.05 mmol) in THF (5 mL) at 23° C. for 16 h. Diluted with EtOAc, washed with 5% citric acid, sat. NaHCO3-sol. and brine, dried organic layer over Na2SO4. Removal of the solvent in vacuum left a crude product, which was purified by silica gel column chromatography with EtOAc followed by trituration with diethyl ether/heptane to give the title compound (0.090 g, 39%) as a white foam. MS (ISP) 568.3 [(M+H)+]; mp 107° C.

reactant | 3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonyl chloride | 0.409 mmol, 0.200 g | CC1=CC(=CC(=N1)C1=NC(=CC=C1)C=1C=C(C=CC1)S(=O)(=O)Cl)C1=CC=C(C=C1)C(F)(F)F | C24H16ClF3N2O2S
reactant | 4-methoxypiperidine | 2.05 mmol, 0.236 g | COC1CCNCC1 | C6H13NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6′-[3-(4-Methoxy-piperidine-1-sulfonyl)-phenyl]-6-methyl-4-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl | 0.090 g, 39% | COC1CCN(CC1)S(=O)(=O)C=1C=C(C=CC1)C1=CC=CC(=N1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C30H28F3N3O3S
